US07820654B2
Synthesis of [2-(3-chloro-4-methoxyphenylamino)-6-(4-methoxyphenyl)pyrimidin-4-yloxy]acetic acid
To a solution of [2-(3-chloro-4-methoxyphenylamino)-6-(4-methoxyphenyl)pyrimidin-4-yloxy]acetic acid ethyl ester (0.15 g, 0.33 mmol) in MeOH (5 mL) was added aqueous NaOH (prepared by adding NaOH in 2 mL of water) and the mixture was stirred for 3 hours at refluxing temperature. The mixture was then cooled to temperature in the range of 20-40° C., concentrated under vacuum, diluted with water (5 mL) and washed with ethyl acetate (2 x 2 mL). The aqueous layer was neutralized with 2N HCl. The solid precipitated was filtered off and dried to give the desired compound.

reactant | [2-(3-chloro-4-methoxyphenylamino)-6-(4-methoxyphenyl)pyrimidin-4-yloxy]acetic acid ethyl ester | 0.33 mmol, 0.15 g | C(C)OC(COC1=NC(=NC(=C1)C1=CC=C(C=C1)OC)NC1=CC(=C(C=C1)OC)Cl)=O | C22H22ClN3O5
reactant | NaOH | 2 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | [2-(3-chloro-4-methoxyphenylamino)-6-(4-methoxyphenyl)pyrimidin-4-yloxy]acetic acid | ClC=1C=C(C=CC1OC)NC1=NC(=CC(=N1)OCC(=O)O)C1=CC=C(C=C1)OC | C20H18ClN3O5
